US04124717
Reaction of 1-cyano-2,2-bis methoxyethylene (J.A.C.S., 1949, 71, 47) with 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole by the procedure of Example 8(i) yields 1-cyano-2-methoxy-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]ethylene. (ii) Reaction of this methylthio compound with 2-(3-aminopropylthio)oxazole by the procedure of Example 1(a) (ii) gives the title compound.

reactant | 1-cyano-2,2-bis methoxyethylene | C(#N)C=C(OC)OC | C5H7NO2
reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole | CC=1N=CNC1CSCCN | C7H13N3S
product | 1-cyano-2-methoxy-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]ethylene | C(#N)C=C(NCCSCC1=C(N=CN1)C)OC | C11H16N4OS
